Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Donnatal / nitroglycerin / tramadol
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
ORIF Right Intertrochanteric hip fracture with TFN on ___

 
History of Present Illness:
___ year old female on hospice with history of atrial 
fibrillation not on anticoagulation, CHF, GI bleed, CKD, ovarian 
cancer s/p TAH/BSO and chemotherapy who presents s/p fall w/ 
right intertrochanteric femur fracture admitted to medicine for 
optimization prior to orthopedic repair.  
Earlier this year, she underwent repairs of her right open tibia 
 
shaft fracture (with ORIF on ___ and closed treatment of 
a left distal periprosthetic femur fracture. Circumstances of 
fall unclear (cared for by home health aid, fall happened 
overnight), but she has been reporting pain in R hip. Also pain 
in R chest. Unknown if LOC or headstrike. Pt is on hospice. 
History of aspiration.  

In the ED, initial vitals were: 9 96.9 76 109/41 18 97% RA  
 Exam notable for Skin tear to L hand, R leg internally rotated, 
shortned  
 Labs showed: Patient declined  
 Imaging showed:  
 C spine- multilevel degenerative changes  
 XR R hip - Comminuted intertrochanteric right femoral fracture 
with resultant varus angulation of the right femoral neck  
 CT head- No acute intracranial abnormality. Chronic changes as 
described.  
 Received morphine, Clinda/CTX, Tylenol, NS  
 Transfer VS were declined by patient  
 Ortho was consulted  
 Decision was made to admit to medicine for further management.  

 
On arrival to the floor, patient was declining interview, exam, 
vitals, or any interventions. She was pulling at her IV/injury 
site and threatening to bite caregivers.  
Per discussion with HCP, patient is "feisty" but usually very 
appreciative of medical care. She did express frustration at new 
fracture as she was just cleared to bear weight from previous 
fracture 1 week ago, saying things like "let me die" and "this 
is a waste of time." He feels her current mental status is 
abnormal. He plans to come with her son tomorrow AM to discuss 
surgery with her.  
 She did take her medications this morning.  
 Review of systems:  
 Unable to obtain  

 
Past Medical History:
- Atrial fibrillation not on anticoagulation
- HFpEF
- Aspiration
- Anemia
- CKD (baseline Cr 1.6)
- Hypertension
- Headaches
- Spinal stenosis
- GERD
- Ovarian cancer s/p TAH/BSO and chemotherapy
- Neurofibroma
- Lower GI bleed s/p syncopal event.
- IBD
- Internal hemorrhoids
- Esophagitis
- S/p bilateral TKAs
- S/p cholecystectomy
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: Unable to obtain.  
 General: Alert, not answering orientation questions.  
 HEENT: NCAT. Constricted pupils  
 CV: Patient declined.  
 Lungs: Patient declined  
 Abdomen: Patient declined  
 GU: No foley  
 Ext: R leg shortened and rotated. Able to move toes b/l. Lower 
extremity warm. Onychomycosis. Tear on R hand.  
 Neuro: Moving R&L upper extremites, LLE, RLE toes/ankle. 
Declines to follow commands.  

DISCHARGE PHYSICAL EXAM
Vital Signs: 99.3 120-140/50-60 ___ 93-96% on RA
General: Lying in bed comfortably
HEENT: MMM 
CV: Regular rhythm, S1 S2, holosystolic murmur at LUSB
Lungs: Good air movement b/l
Abdomen: BS+, non-distended. Mildly tender to palpation 
diffusely
Ext: right lower extremity warm, pulses intact, trace edema

 
Pertinent Results:
ADMISSION LABS
--------------
___ 09:10PM BLOOD WBC-13.1* RBC-2.82* Hgb-8.1* Hct-26.7* 
MCV-95 MCH-28.7 MCHC-30.3* RDW-14.7 RDWSD-50.3* Plt ___
___ 09:10PM BLOOD ___ PTT-27.7 ___
___ 09:10PM BLOOD Glucose-103* UreaN-33* Creat-1.6* Na-139 
K-5.1 Cl-100 HCO3-26 AnGap-18
___ 09:10PM BLOOD Calcium-8.8 Phos-4.5 Mg-2.2
___ 06:24AM BLOOD Lactate-1.0
___ 06:28AM URINE Color-Straw Appear-Clear Sp ___
___ 06:28AM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 06:28AM URINE RBC-<1 WBC-27* Bacteri-MANY Yeast-NONE 
Epi-0

IMAGING
-------
CT HEAD WITHOUT CONTRAST ___: No acute intracranial 
abnormality.  Chronic changes as described.

CT C-SPINE WITHOUT CONTRAST ___: Multilevel degenerative 
changes without acute cervical fracture or acute cervical 
malalignment.  No significant changes are demonstrated since the 
prior CT of cervical spine dated ___. 

RIGHT HIP X-RAY ___: Comminuted intertrochanteric right 
femoral fracture with resultant varus angulation of the right 
femoral head. 
  
Healed inferior right pubic ramus fracture, present on 
examination performed ___. 

CXR ___: Patchy left base retrocardiac opacity may be due 
to atelectasis, but consolidation due to pneumonia or aspiration 
is not excluded in the appropriate clinical setting. 

MICROBIOLOGY
------------
___ 6:28 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROBACTER CLOACAE COMPLEX.    >100,000 CFU/mL. 
         Piperacillin/Tazobactam sensitivity testing confirmed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
AMIKACIN--------------   <=2 S
CEFEPIME--------------       R
CEFTAZIDIME-----------     8 I
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

DISCHARGE/INTERVAL LABS
___ 10:05AM BLOOD WBC-12.3* RBC-2.71* Hgb-7.7* Hct-24.8* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-15.1 RDWSD-49.7* Plt ___
___ 06:10AM BLOOD ___ PTT-25.5 ___
___ 10:05AM BLOOD Glucose-101* UreaN-21* Creat-1.2* Na-138 
K-3.3 Cl-102 HCO3-24 AnGap-15
___ 10:05AM BLOOD Calcium-7.7* Phos-3.2 Mg-2.0
___ 06:55AM BLOOD Lactate-1.___ year old F on home hospice with history of atrial 
fibrillation, not currently on anticoagulation, dCHF, GI bleed, 
CKD, ovarian cancer s/p TAH/BSO and chemotherapy, who presents 
after a fall with right intertrochanteric hip fracture now s/p 
intramedullary rod fixation. 

# Right intertrochanteric hip fracture: Likely occurred after 
falling as she was ambulating to the bathroom, though the exact 
circumstances surrounding her fall remain unclear as it was only 
mentioned by her a day later. Fracture was noted on right hip 
x-ray on arrival. CT head and cervical spine were negative for 
bleed or fracture. Of note, patient had presented to the ED on 
___ for a fall. Given discussion with orthopedics and family 
on indicated interventions, patient was taken to the ___ for 
right hip intramedullary rod fixation without complications. 
Pain was  well controlled on standing Tylenol and Oxycodone 
2.5-5 mg PO Q4H:PRN. Per ortho, patient will continue on Aspirin 
325 mg daily for antiplt therapy for two weeks.
 
# Delirium: On arrival to the Medicine floor, patient was found 
to be agitated which per her HCP (Grandson ___, is not 
consistent with her baseline. She received Ativan and Morphine 
on initial presentation causing her to be subsequently 
somnolent. Head CT in the ED was negative. Her delirium was 
likely exacerbated by her right hip pain and urinary tract 
infection and she required intermittent doses of Haldol IV 0.5 
mg when agitated. Following surgery on ___, patient 
experienced a notable improvement in her mental status and was 
alert and oriented to her surroundings. She was also maintained 
on her home Seroquel. AOx2 on day of discharge.

# Urinary tract infection: Likely contributing to patient's 
delirium as noted above. She was started on ceftriaxone 
empirically with urine culture growing Enterobacter cloacae 
complex, found to be resistant to ceftriaxone. Culture was only 
sensitive to amikacin and meropenem. Meropenem was started on 
___ for a 7 day course (end date: ___.

# Anemia: Patient has a history of anemia secondary to slow GI 
bleed and CKD, requiring transfusions during previous 
hospitalization. Hgb during admission down to 6.7, likely with 
some active blood loss given her right hip fracture on 
presentation. She received 1 U RBCs prior to surgery with Hgb 
remaining stable at ___ following surgery.  

# Goals of care: Patient is DNR/DNI and has been on home hospice 
with home health aid since discharge in ___ given 
hospitalization at that time concerning for significant 
aspiration. 

TRANSITIONAL ISSUES:
==================
[] STARTED IV meropenem for 7 day course (last day ___ 
through power midline
[] STARTED aspirin 325mg per ortho for 2 weeks (through ___
[] Please discuss whether hospice is indicated given improvement 
from aspiration-risk standpoint
[] Please recheck CBC in ___ days given recent requirement of 
transfusion. H/H stable at time of discharge
# CODE: DNR/DNI
# CONTACT: Grandson ___: (HCP) ___, Son ___: 
___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO QAM 
2. Furosemide 20 mg PO QAM 
3. LORazepam 1 mg PO QHS insomnia 
4. Metoprolol Succinate XL 100 mg PO QAM 
5. Benzonatate 100 mg PO TID:PRN cough 
6. QUEtiapine Fumarate 25 mg PO QAM 
7. LOPERamide 2 mg PO PRN diarrhea 
8. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
9. LORazepam 1 mg PO PRN agitation 
10. Nitroglycerin Patch 0.6 mg/hr TD QAM 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO PRN Pain - 
Mild 
13. OxyCODONE (Immediate Release) 5 mg PO PRN Pain - Mild 
14. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral PRN 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY  
2.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
3.  Meropenem 500 mg IV Q12H  
4.  Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush  

5.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
6.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
7.  amLODIPine 5 mg PO QAM  
8.  Benzonatate 100 mg PO TID:PRN cough  
9.  Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral PRN  
10.  Furosemide 20 mg PO QAM  
11.  LOPERamide 2 mg PO PRN diarrhea  
12.  LORazepam 1 mg PO QHS insomnia  
13.  LORazepam 1 mg PO PRN agitation  
14.  Metoprolol Succinate XL 100 mg PO QAM  
15.  Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO PRN Pain 
- Mild  
16.  Nitroglycerin Patch 0.6 mg/hr TD QAM  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
18.  OxyCODONE (Immediate Release) 5 mg PO PRN Pain - Mild  
19.  QUEtiapine Fumarate 25 mg PO QAM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: Right intertrochanteric hip fracture s/p 
intramedullary rod fixation, delirium, urinary tract infection

Secondary diagnoses: Anemia, CKD, Hypertension, Diastolic CHF, 
Atrial Fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ after a fall that you sustained 
causing right hip pain. Your imaging showed a fracture at the 
site of your right hip. Your pain was controlled with Tylenol 
and oxycodone. You underwent surgery to stabilize your hip 
without complication. To avoid the development of blood clots 
which are associated with orthopedic surgery, you have been 
started on Aspirin 325 mg daily to be taken for 2 weeks. 

During your stay, your urine was found to be infected. You were 
treated with a common IV antibiotics however the bacteria in 
your urine was discovered to be resistant to this medication. 
You were subsequently started on a medication that this bacteria 
is sensitive to. You should continue this antibiotic (Meropenem) 
through New Year's Day. 

You also experienced intermittent episodes of confusion and 
sleepiness. This can occur in the setting of severe pain and 
with urinary tract infections. This improved by the time you 
left the hospital.

It is important that you attend your follow-up appointments 
listed below and read the instructions from your orthopedic 
surgeon as detailed below.

It was a true pleasure taking care of you! We wish you the best!

Your ___ Team

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:
- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- weight-bearing as tolerated right lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.

ANTICOAGULATION:
- Please take Aspirin daily for 2 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet
 
Followup Instructions:
___